US08282967B2
11-Bromo-1-undecanethiol was synthesized in two steps (see FIG. 11). First, 11-bromo-1-undecene (5.0 g) was converted to a thioacetate by reacting with AiBN (1.5 g) and thioacetic acid (10 mL) in toluene (50 mL). The reaction was run under Ar and refluxed for 2 h. The solution was washed with excess water and the toluene removed by rotary evaporation. The thioacetate was converted into a thiol by exposing the 11-bromo-1-undecanethioacetate to dry HCl. Acetyl chloride (6 mL) was added dropwise to dry methanol in an ice bath under Ar. The solution was allowed to warm to room temperature and the reaction progressed for approximately 6 h. Methylene chloride and water were added and the methylene chloride layer was washed several times with water. The solvent was removed by rotary evaporation.

reactant | 11-bromo-1-undecene | 5.0 g | BrCCCCCCCCCC=C | C11H21Br
reactant | thioacetate | C(C)(=S)[O-]
reactant | thioacetic acid | 10 mL | C(C)(=S)O | C2H4OS
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 11-Bromo-1-undecanethiol | BrCCCCCCCCCCCS | C11H23BrS
